US05312840
N-(Adamantan-1-yl)-N'-(2-iodophenyl)guanidine HCl
Adamantan-1-ylcyanamide (299 mg, 1.70 mmol) and o-iodoaniline hydrochloride (433 mg 1.70 mmol) were finely ground together and heated at 200° for 10 min. The resultant black glassy solid was pulverized, and recrystallized 5 times from EtOH/Et2O. The resultant faintly blue needles (80 mg) were dissolved in 4 ml EtOH, and passed through a short (<1 cm) column packed from bottom to top with Celite, charcoal, activated alumina, and sand. The colorless eluate was then diluted with 5 ml Et2O, and allowed to stand in an Et2O diffusion chamber overnight. The white needles were collected by suction filtration, 40 mg, mp 274°-275° C. Addition of another 5 ml Et2O yielded a second crop (31 mg) of identical material. Combined yield: 21%. 1H (CD3OD) 1.779 (s, 6H), 2.090 (s, 6H), 2.164 (s, 3 H), 7.168 (t, 1H, J=8.1 Hz), 7.388 (d, 1 H, J=9.1 Hz), 7.503 (t, 1 H, J=7.8 Hz), 8.004 (d, 1 H, J=7.8 Hz).

reactant | Adamantan-1-ylcyanamide | 1.70 mmol, 299 mg | C12(CC3CC(CC(C1)C3)C2)NC#N | C11H16N2
reactant | o-iodoaniline hydrochloride | 1.70 mmol, 433 mg | Cl.IC1=C(N)C=CC=C1
product | N-(Adamantan-1-yl)-N'-(2-iodophenyl)guanidine HCl | 31 mg, yield: 21% | Cl.C12(CC3CC(CC(C1)C3)C2)NC(=N)NC2=C(C=CC=C2)I | InChI=1S/C17H22IN3.ClH/c18-14-3-1-2-4-15(14)20-16(19)21-17-8-11-5-12(9-17)7-13(6-11)10-17;/h1-4,11-13H,5-10H2,(H3,19,20,21);1H
